US09145415B2
To a solution of 4-((4-chloro-5-iodopyrimidin-2-yl)amino)benzonitrile (J12, 25 mg) in tetrahydrofuran (1 mL), N,N-diisopropylethylamine (37 μL) and a 2.0 mol/L solution of methylamine in tetrahydrofuran (105 μL) were added at room temperature, and the mixture was stirred at room temperature for 19 hours. To the reaction mixture, water (5 mL) was added. The solid matter was taken by filtration, washed with water, and then dried under reduced pressure to obtain 4-((5-iodo-4-(methylamino)pyrimidin-2-yl)amino)benzonitrile (F224, 27 mg).

reactant | 4-((4-chloro-5-iodopyrimidin-2-yl)amino)benzonitrile | 25 mg | ClC1=NC(=NC=C1I)NC1=CC=C(C#N)C=C1 | C11H6ClIN4
reactant | methylamine | CN | CH5N
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | N,N-diisopropylethylamine | 37 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 105 μL | O1CCCC1 | C4H8O
product | 4-((5-iodo-4-(methylamino)pyrimidin-2-yl)amino)benzonitrile | 27 mg | IC=1C(=NC(=NC1)NC1=CC=C(C#N)C=C1)NC | C12H10IN5
